US05891909
c) 3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propanol
Tri-n-butylphosphine (8.4 mL, 34 mmol) was added dropwise over 5 min to 3-(2-methoxyphenylsulfonyloxy)-5-methylphenol (4.97 g, 16.9 mmol, as prepared in the preceding step), 1,3-propanediol (12 mL, 170 mmol) and 1,1'-(azodicarbonyl)dipiperidine (8.54 g, 33.8 mmol) in anhydrous tetrahydrofuran (75 mL) at 0° C. under a nitrogen atmosphere. Dichloromethane (75 mL) was added mid-way through the tri-n-butylphosphine addition to aid stirring. The slurry was stirred at ambient temperature for 1 h, then the mixture was cooled to 0° C. and more 1,1'-(azodicarbonyl)dipiperidine (4.27 g, 16.9 mmol) and tri-n-butylphosphine (4.2 mL, 16.9 mmol) were added. The reaction was stirred overnight at ambient temperature. Diethyl ether (200 mL) was added and the mixture was filtered. The filtrate was concentrated in vacuo, and the residue was purified by flash column chromatography (25% ethyl acetate in hexane to 60% ethyl acetate in hexane, then 2% acetone in dichloromethane to 7% acetone in dichloromethane in two separate chromatographic separations) to give the title compound (3.79 g, 64%) as a gold oil. 1H-NMR (300 MHz, CDCl3) δ 7.82 (dd, 1 H, J=1.7, 7.9 Hz),7.61 (ddd, 1 H, J=1.8, 7.5, 8.4 Hz),7.08 (d, 1 H, J=8.4 Hz), 7.01 (ddd, 1 H, J=1, 7.5, 7.9 Hz), 6.58 (br s, 1 H), 6.51 (br s, 1 H), 6.46 (t, 1 H, J=2.1 Hz), 4.02 (s, 3 H), 4.00 (t, 2 H, J=6.0Hz), 3.81 (m, 2 H), 2.24 (s, 3 H), 1.98 (pentet, 2 H, J=6.0 Hz), 1.72 (t, 1 H, J=5.0 Hz). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C17H20O6S: 375.1 (M+Na). Found: 375.1.

reactant | Tri-n-butylphosphine | 34 mmol, 8.4 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 3-(2-methoxyphenylsulfonyloxy)-5-methylphenol | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(C=C(C1)C)O | C14H14O5S
reactant | 1,3-propanediol | 170 mmol, 12 mL | C(CCO)O | C3H8O2
reactant | 1,1'-(azodicarbonyl)dipiperidine | 33.8 mmol, 8.54 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | 1,1'-(azodicarbonyl)dipiperidine | 16.9 mmol, 4.27 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tri-n-butylphosphine | 16.9 mmol, 4.2 mL | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | Diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | Dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propanol | 3.79 g, 64% | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C17H20O6S
